US07915271B2
To a 0° C. solution of benzyl [(1S,2R)-2-hydroxy-2-(3-methoxyphenyl)-1-methylethyl]carbamate (40 mg, 0.126 mmol) in DMA (1.5 mL) was added NaHMDS (0.246 mL of a 1M solution in THF, 0.246 mmol). After 5 minutes, a solution of methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (68 mg, 0.138 mmol) in DMA (2.5 mL) was added via cannula. After 5 minutes, the reaction was quenched with saturated NH4Cl solution (10 mL), diluted with EtOAc (20 mL), washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0 to 25% acetone/hexanes), followed by reverse-phase chromatography (C-18, 10 to 95% MeCN/water with 0.1% TFA) afforded methyl 4′-methoxy-2″-{[(4S,5R)-5-(3-methoxyphenyl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate. LCMS=644.0 (M+1)+. 1H NMR (CDCl3, 500 MHz, rotamers present) δ 7.94-7.86 (m, 2H), 7.71-7.62 (m, 2H), 7.43-7.36 (m, 2H), 7.31-7.22 (m, 2H), 7.3 (m, 1H), 7.08-7.05 (m, 1H), 6.85-6.83 (m, 1H), 6.75-6.68 (m, 2H), 5.45 (d, J=8.0 Hz), 5.23 (d, J=8.0 Hz), 4.89 (d, J=16.0 Hz), 4.82 (d, J=16.0 Hz), 4.20 (d, J=15.8 Hz), 3.96 (d, J=15.8 Hz), 3.91 (s, 3H), 3.85 (s, 3H), 3.77-3.75 (m, 3H), 3.72-3.69 (m, 1H), 2.31 (s), 2.08 (s), 0.54 (d, J=6.4 Hz), 0.44 (d, J=6.4 Hz).

reactant | benzyl [(1S,2R)-2-hydroxy-2-(3-methoxyphenyl)-1-methylethyl]carbamate | 0.126 mmol, 40 mg | O[C@@H]([C@H](C)NC(OCC1=CC=CC=C1)=O)C1=CC(=CC=C1)OC | C18H21NO4
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.138 mmol, 68 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C | C24H20BrF3O3
solvent | DMA | 1.5 mL | CC(=O)N(C)C | C4H9NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMA | 2.5 mL | CC(=O)N(C)C | C4H9NO
product | methyl 4′-methoxy-2″-{[(4S,5R)-5-(3-methoxyphenyl)-4-methyl-2-oxo-1,3-oxazolidin-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC=C1)OC)=O | C35H32F3NO6
